US04808748
Using the same general procedure as in Comparative Example A, one molar proportion of methyl 6-methoxy-5-bromo-1-naphthoate (MMBN) was reacted with 1.7 molar proportions of sodium trifluoroacetate in the presence of 2 molar proportions of CuI and molar proportions of N,N-dimethylformamide (DMF), with an additional 0.95 molar proportion of sodium trifluoroacetate being added during the course of the reaction. The total reaction time was 5 hours. After workup, the desired methyl 6-methoxy-5-trifluoromethyl-1-naphthoate (MMTN) was isolated in a 76% yield.

reactant | methyl 6-methoxy-5-bromo-1-naphthoate | COC=1C(=C2C=CC=C(C2=CC1)C(=O)OC)Br | C13H11BrO3
reactant | sodium trifluoroacetate | FC(C(=O)[O-])(F)F.[Na+]
catalyst | CuI | [Cu]I
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | methyl 6-methoxy-5-trifluoromethyl-1-naphthoate | 76% yield | COC=1C(=C2C=CC=C(C2=CC1)C(=O)OC)C(F)(F)F | C14H11F3O3
